2178-07-09 11:47:00 Physician Attending Progress Note
Chief Complaint: seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56F with chronic EtOH use, presented with recurrent syncope,
   transferred to MICU after seizure on the floor, with increaseing benzo
   requirement.
   24 Hour Events:
   -stable; total 16 mg lorazepam for GTC seizure < 1 min, seizure broke
   with ativan on floor prior to transfer. No recurrent seizures in MICU.
   - altered MS [**First Name (Titles) **] [**Last Name (Titles) 3212**] vs post-ictal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-7-9**] 12:00 AM
   Lorazepam (Ativan) - [**2178-7-9**] 03:53 AM
   Other medications:
   fa, thamine, mvi, pantopr, vitd, sqh, lactulose, ativan (total
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-7-9**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 89 (74 - 118) bpm
   BP: 112/67(78) {99/57(67) - 169/139(147)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 74.1 kg
   Height: 66 Inch
             Total In:
                                                                  2,100 mL
                                                                    500 mL
   PO:
             TF:
   IVF:
                                                                  2,100 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    950 mL
   Urine:
                                                                    420 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,680 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): year only , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   47 K/uL
   93 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.9 mEq/L
   10 mg/dL
   103 mEq/L
   132 mEq/L
   29.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2178-7-5**]  05:14 AM
                             [**2178-7-5**]  09:17 AM
                             [**2178-7-5**]  09:20 AM
                             [**2178-7-5**]  12:12 PM
                             [**2178-7-5**]  05:42 PM
                             [**2178-7-6**]  01:46 AM
                             [**2178-7-9**]  04:16 AM
   WBC
   4.5
   4.2
   6.8
   Hct
   27.6
   26.8
   28.0
   29.9
   Plt
   35
   38
   38
   47
   Cr
   1.5
   1.4
   0.9
   TropT
   0.02
   0.01
   Glucose
   78
   107
   93
   Other labs: PT / PTT / INR:18.1/42.7/1.6, CK / CKMB /
   Troponin-T:366/6/0.01, ALT / AST:59/140, Alk Phos / T Bili:166/6.4,
   Amylase / Lipase:/81, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:287
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Imaging: cxr:
   Microbiology: culture:
   Assessment and Plan
 SYNCOPE
 HEPATORENAL SYNDROME
 HYPOTENSION (NOT SHOCK)
 FALL(S)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 THROMBOCYTOPENIA, ACUTE
   56F with chronic EtOH use, presented with recurrent syncope,
   transferred to MICU after seizure on the floor, with increasing benzo
   requirement and persistently altered mental status. Etiology of seizure
   is most likely EtOH withdrawal, although neurology did evaluate patient
   and other etiologies are being considered. At this time she appears
   comfortable, with mildly agitated delirium and stable hemodynamics.
   For today will continue close monitoring and liberal use of [**Year (4 digits) 3212**].
   Will place NGT and start nutrition. Also awaiting EEG. Head CT is only
   remarkable for baseline cerebral disease, without any acute changes.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-7-8**] 07:04 PM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer: PPI
   Communication : will notify sister [**Name (NI) 461**]
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Patient is critically ill. Total time spent: 35 minutes

2178-07-10 11:09:00 Physician Attending Progress Note
Chief Complaint: EtOH withdrawal seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56F with long-standing history of EtOH abuse, presented with recurrent
   syncope or unclear etiology, now with seizure likely from EtOH w/l:
   24 Hour Events:
 EEG - At [**2178-7-9**] 02:36 PM
   -lorazepam total 2 mg PO x2 po and 2 mg IV x2
   -no seizures
   -eeg c/w etoh w/l, NO seizure
   -
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2178-7-10**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2178-7-10**] 08:06 AM
   Other medications:
   fa, thiamine, mvi, pantopr, vitb, riss, sqh, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Neurologic: No(t) Numbness / tingling, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-7-10**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 92 (86 - 119) bpm
   BP: 96/68(75) {81/52(59) - 199/177(182)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 74.1 kg
   Height: 66 Inch
             Total In:
                                                                    560 mL
                                                                  2,042 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                  1,892 mL
   Blood products:
   Total out:
                                                                  1,260 mL
                                                                    810 mL
   Urine:
                                                                  1,260 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                  1,232 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t) Thin
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3 with prompting, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   56 K/uL
   103 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   10 mg/dL
   106 mEq/L
   134 mEq/L
   29.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2178-7-5**]  05:14 AM
                             [**2178-7-5**]  09:17 AM
                             [**2178-7-5**]  09:20 AM
                             [**2178-7-5**]  12:12 PM
                             [**2178-7-5**]  05:42 PM
                             [**2178-7-6**]  01:46 AM
                             [**2178-7-9**]  04:16 AM
                             [**2178-7-10**]  04:50 AM
   WBC
   4.5
   4.2
   6.8
   5.2
   Hct
   27.6
   26.8
   28.0
   29.9
   29.4
   Plt
   35
   38
   38
   47
   56
   Cr
   1.5
   1.4
   0.9
   0.8
   TropT
   0.02
   0.01
   Glucose
   78
   107
   93
   103
   Other labs: PT / PTT / INR:18.1/42.7/1.6, CK / CKMB /
   Troponin-T:366/6/0.01, ALT / AST:59/140, Alk Phos / T Bili:166/6.4,
   Amylase / Lipase:/81, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:287
   IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:1.8 mg/dL
   Imaging: no new
   Microbiology: all negative to date
   Assessment and Plan
 SYNCOPE
 HEPATORENAL SYNDROME
 HYPOTENSION (NOT SHOCK)
 FALL(S)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 THROMBOCYTOPENIA, ACUTE
   56F with long-standing history of EtOH abuse, presented with recurrent
   syncope or unclear etiology, now with seizure likely from EtOH
   withdrawal. She has been stable with close monitoring and intermittent
   ativan, but she remains in DTs and needs continued close monitoring.
   Probably able to go to the floor once mental status improves some more.
   Further work-up of recurrent falls when more awake and when better
   history can be obtained from the patient; work-up so far has been
   negative, though may need MRI for further diagnostic evaluation.
   ICU Care
   Nutrition: start tube feeds today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2178-7-8**] 07:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2178-07-11 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See admission note
   24 Hour Events:
   Uneventful night - no benzos x 24 hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-7-11**] 12:27 AM
   Other medications:
   folate, MVI, PPI, B copmplex, RISS, SCH, lactulose 30 tid, thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2178-7-11**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 97 (89 - 107) bpm
   BP: 85/45(55) {84/45(55) - 141/90(102)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.1 kg (admission): 74.1 kg
   Height: 66 Inch
             Total In:
                                                                  5,389 mL
                                                                  1,453 mL
   PO:
             TF:
                                                                    299 mL
                                                                    463 mL
   IVF:
                                                                  4,710 mL
                                                                    990 mL
   Blood products:
   Total out:
                                                                  1,445 mL
                                                                    360 mL
   Urine:
                                                                  1,445 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,944 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : few at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Oriented (to): x 3,
   poor anunciation but coherent and oriented
   Labs / Radiology
   10.2 g/dL
   77 K/uL
   129 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   132 mEq/L
   31.5 %
   5.6 K/uL
        [image002.jpg]
                             [**2178-7-5**]  05:14 AM
                             [**2178-7-5**]  09:17 AM
                             [**2178-7-5**]  09:20 AM
                             [**2178-7-5**]  12:12 PM
                             [**2178-7-5**]  05:42 PM
                             [**2178-7-6**]  01:46 AM
                             [**2178-7-9**]  04:16 AM
                             [**2178-7-10**]  04:50 AM
                             [**2178-7-11**]  04:10 AM
   WBC
   4.5
   4.2
   6.8
   5.2
   5.6
   Hct
   27.6
   26.8
   28.0
   29.9
   29.4
   31.5
   Plt
   35
   38
   38
   47
   56
   77
   Cr
   1.5
   1.4
   0.9
   0.8
   0.8
   TropT
   0.02
   0.01
   Glucose
   78
   107
   93
   103
   129
   Other labs: PT / PTT / INR:18.1/42.7/1.6, CK / CKMB /
   Troponin-T:366/6/0.01, ALT / AST:59/140, Alk Phos / T Bili:166/6.4,
   Amylase / Lipase:/81, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:287
   IU/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
 HYPOTENSION (NOT SHOCK)
 FALL(S)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 THROMBOCYTOPENIA, ACUTE
   56F with long-standing history of EtOH abuse, presented with recurrent
   syncope or unclear etiology, readmitted to MICU with seizure likely
   from EtOH withdrawal. She has been stable with close monitoring. Has
   not had benzos in 24 hours now, mental status improving, needs
   continued close monitoring but is ready for the medical [**Hospital1 **] at this
   point.
   Further work-up of recurrent falls when more awake and when better
   history can be obtained from the patient; work-up so far has been
   negative, though may need MRI for further diagnostic evaluation.
   Cirrhosis - Tbili stable.
   Alcohol abuse - we discussed with her importance of abstaining
   completely. Social work will need to involved prior to discharge. Watch
   for continued signs of withdrawal/DTs.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2178-7-10**] 12:09 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-7-8**] 07:04 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2178-07-12 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   - Ativan 1 mg (for agitation and tachycardia at 4pm yesterday) and then
   2 mg (for similar sx and tremulous at 11pm)
   - bolused 1L for tachycardia which
   - uneventful otherwise
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-7-12**] 08:32 AM
   Heparin Sodium (Prophylaxis) - [**2178-7-12**] 08:32 AM
   Other medications:
   reviewed - folate, mvi, pantoprazole, vit b, SCH, RISS, lactulose 30
   tid, thiamine, ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-12**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 108 (95 - 118) bpm
   BP: 113/58(71) {112/58(71) - 160/89(101)} mmHg
   RR: 17 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.1 kg (admission): 74.1 kg
   Height: 66 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,270 mL
                                                                    560 mL
   PO:
   TF:
                                                                  1,081 mL
                                                                    458 mL
   IVF:
                                                                  4,189 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    295 mL
   Urine:
                                                                    780 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,490 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic, dentures in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : )
   Abdominal: Soft, Bowel sounds present, Distended, No(t) Tender: , +
   fluid shift
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Oriented (to): x 3, Movement:
   Not assessed, Tone: Not assessed, No asterixis
   Labs / Radiology
   10.8 g/dL
   82 K/uL
   122 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.9 mEq/L
   8 mg/dL
   109 mEq/L
   136 mEq/L
   33.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2178-7-5**]  05:14 AM
                             [**2178-7-5**]  09:17 AM
                             [**2178-7-5**]  09:20 AM
                             [**2178-7-5**]  12:12 PM
                             [**2178-7-5**]  05:42 PM
                             [**2178-7-6**]  01:46 AM
                             [**2178-7-9**]  04:16 AM
                             [**2178-7-10**]  04:50 AM
                             [**2178-7-11**]  04:10 AM
                             [**2178-7-12**]  04:11 AM
   WBC
   4.5
   4.2
   6.8
   5.2
   5.6
   5.2
   Hct
   27.6
   26.8
   28.0
   29.9
   29.4
   31.5
   33.6
   Plt
   35
   38
   38
   47
   56
   77
   82
   Cr
   1.5
   1.4
   0.9
   0.8
   0.8
   0.8
   TropT
   0.02
   0.01
   Glucose
   78
   107
   93
   103
   129
   122
   Other labs: PT / PTT / INR:17.2/44.2/1.5, CK / CKMB /
   Troponin-T:366/6/0.01, ALT / AST:65/154, Alk Phos / T Bili:243/8.4,
   Amylase / Lipase:/81, Lactic Acid:2.7 mmol/L, Albumin:3.1 g/dL, LDH:287
   IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
 HYPOTENSION (NOT SHOCK), FALL(S)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 THROMBOCYTOPENIA, ACUTE
   56F with long-standing history of EtOH abuse, presented with recurrent
   syncope or unclear etiology, readmitted to MICU with seizure likely
   from EtOH withdrawal. She has been stable with close monitoring. Has
   not had benzos in 24 hours now, mental status improving, needs
   continued close monitoring but is ready for the medical [**Hospital1 **] at this
   point.
   Further work-up of recurrent falls when more awake and when better
   history can be obtained from the patient; work-up so far has been
   negative, though may need MRI for further diagnostic evaluation.
   Presumed cirrhosis/ascites - Tbili and ALP rising. Will do abd/pelv u/s
   with doppler. Therapeutic paracentesis may be needed in next 1-2 days
   but no urgent indication. Bladder pressure 18 cm. Will give trial of
   diuresis first. d/c IVF for now.
   Tachycardia - Etiology unclear, ? discomfort from distended abdomen vs
   intravasc depletion (with 3rd spacing)
   Alcohol abuse - we discussed with her importance of abstaining
   completely. Social work will need to involved prior to discharge. Watch
   for continued signs of withdrawal/DTs.
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2178-7-11**] 03:33 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2178-7-12**] 04:57 AM
   18 Gauge - [**2178-7-12**] 04:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes